* Enhanced TLV9054 Quad Op-Amp SPICE Macro-Model
* Based on Datasheet Parameters
* Author: Dr. Anand Mohan (Monash University)

* Pins: IN+ IN- VCC VEE OUT

.SUBCKT TLV9054 IN+ IN- VCC VEE OUT

* Input Stage
RIN+ IN+ VEE 1T 
RIN- IN- VEE 1T 
IBIAS+ IN+ VEE DC 2p 
IBIAS- IN- VEE DC 2p 
VOS INT1 IN- DC 0.33m 

* Differential Voltage Amplifier
E_DIFF DIFF_OUT 0 IN+ INT1 1 

* Gain Stage with Power Supply Rejection
RGAIN DIFF_OUT INT2 10K 
CGAIN INT2 0 3.18P 
E_GAIN INT2 0 DIFF_OUT 0 100000 
R_PSRR_VCC INT2 VCC 100K 
R_PSRR_VEE INT2 VEE 100K 

* Gain Bandwidth Product
R_GBW INT2 GBW_NODE 1K 
C_GBW GBW_NODE 0 31.83P 

* Slew Rate Limiting
CSLEW GBW_NODE 0 1P 

* Output Stage with Rail-to-Rail Swing
E_OUT OUT_INT 0 GBW_NODE 0 1 
ROUT OUT_INT OUT_RAW 10 

* Output Clamping (using diodes)
*D_CLAMP_P OUT_RAW VCC DNV1  
*D_CLAMP_N OUT_RAW VEE DNV1
*R_CLAMP_P OUT_RAW VCC 10 
*R_CLAMP_N OUT_RAW VEE 10

* Output Node
RO_CLAMP OUT_RAW OUT 1

.MODEL DNV1 D IS=1e-50 N=1
*.MODEL DNV2 D IS=1e-10 N=1

.ENDS TLV9054